US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine and 6-aminoindole were reacted to yield 5-fluoro-N4-(3-hydroxyphenyl)-N2-[(1H)-indol-6-yl]-2,4-pyrimidinediamine. LCMS: ret. time: 18.13 min.; purity: 96%; MS (m/e): 336 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | 6-aminoindole | NC1=CC=C2C=CNC2=C1 | C8H8N2
product | 5-fluoro-N4-(3-hydroxyphenyl)-N2-[(1H)-indol-6-yl]-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC=C2C=CNC2=C1)NC1=CC(=CC=C1)O | C18H14FN5O
